US04888332
Preparation of 7-hydroxy-5-isopropyl-2-methoxycarbonyl-s-triazolo[ 1,5-a]pyrimidine
A mixture of 3-amino-5-methoxycarbonyl-s-triazole (60 g) and ethyl 3-oxo-4-methylvalerate (65 g) in 600 ml of acetic acid was refluxed for five hours, the reaction mixture was cooled to room temperature, its pH was lowered to 1 to 2 with concentrated hydrochloric acid, and the separated crystals were recrystallized from ethanol, affording 54 g of the objective compound as colorless crystals.

reactant | 3-amino-5-methoxycarbonyl-s-triazole | 60 g | NC1=NNC(=N1)C(=O)OC | C4H6N4O2
reactant | ethyl 3-oxo-4-methylvalerate | 65 g | O=C(CC(=O)OCC)C(C)C | C8H14O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 7-hydroxy-5-isopropyl-2-methoxycarbonyl-s-triazolo[ 1,5-a]pyrimidine | 54 g | OC1=CC(=NC=2N1N=C(N2)C(=O)OC)C(C)C | C10H12N4O3
